US05434186
Starting with 0.275 g (0.78 mmol) of 7-[(5-bromopentyl)oxy]-2,3-dihydro-8-propyl-4H-1-benzopyran-4-one, and 0.286 g (0.77 mmol) of 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester, 5-[(3-carboxyphenyl)carbonyl]-2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenepropanoic acid (0.163 g; 52% overall yield) was obtained, as a white solid, mp 122°-128° C. (recrystallized from hexane-ethyl acetate), using the procedure of example 19.

reactant | 7-[(5-bromopentyl)oxy]-2,3-dihydro-8-propyl-4H-1-benzopyran-4-one | 0.78 mmol, 0.275 g | BrCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C17H23BrO3
reactant | 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester | 0.77 mmol, 0.286 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)O)=O | C21H22O6
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5-[(3-carboxyphenyl)carbonyl]-2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]benzenepropanoic acid | 0.163 g, 52% | C(=O)(O)C=1C=C(C=CC1)C(=O)C=1C=CC(=C(C1)CCC(=O)O)OCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C34H36O9
